US06531491B1
6-Nitro-3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole (8.1 g, 20.5 mmol) was dissolved in DMF (75 mL) at 23° C. under an atmosphere of argon. SnCl2 (12.9 g, 67.7 mmol) was added followed by water (1.7 mL, 92.2 mmol) and the resulting mixture was heated to 50° C. After 4 h, 3N NaOH (45 mL, 135 mmol) was added followed by EtOAc (100 mL). The resulting emulsion was filtered hot through Celite and the bed of Celite was washed with hot EtOAc (3×100 mL). The filtrate was concentrated under reduced pressure, the residue was dissolved in EtOAc, washed with brine, dried with Na2SO4, filtered and concentrated under reduced pressure to give a solid. The crude material was purified by silica gel chromatography (2:8→7:3 ethyl acetate:hexane), to give 3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-ylamine as a yellow solid (5.1 g, 68% yield). MS (FAB) [M+H]/z Calc'd 366, found 366.

reactant | 6-Nitro-3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole | 20.5 mmol, 8.1 g | [N+](=O)([O-])C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C21H25N3O3Si
reactant | SnCl2 | 67.7 mmol, 12.9 g | Cl[Sn]Cl
reactant | water | 92.2 mmol, 1.7 mL | O | H2O
reactant | NaOH | 135 mmol, 3N, 45 mL | [OH-].[Na+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-ylamine | 5.1 g, 68% yield | C(=CC1=CC=CC=C1)C1=NN(C2=CC(=CC=C12)N)COCC[Si](C)(C)C | C21H27N3OSi
